US04929611
To a solution of 17-allyl-12-[2-(4-tert-butyldimethylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (39.9 mg) in pyridine (1.5 ml) was added acetic anhydride (0.5 ml), and the mixture was stirred at room temperature for 6 hours. The solvent was removed from the reaction mixture under reduced pressure to give a crude oil, which was purified on silica gel thin layer chromatography (developing solvent: diethyl ether and hexane, 1:1 v/v) to afford 14-acetoxy-17-allyl-12-[2-(4-tert-butyl-dimethylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (26.5 mg).

reactant | 17-allyl-12-[2-(4-tert-butyldimethylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 39.9 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C50H83NO12Si
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 14-acetoxy-17-allyl-12-[2-(4-tert-butyl-dimethylsilyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 26.5 mg | C(C)(=O)OC1C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=CC(C(C1)=O)CC=C)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OC)C)C | C52H85NO13Si
